US07312249B2
g. Synthesis of 1-{4-[3-(3,4-Bis-hydroxymethyl-phenyl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-ol
In a manner similar to Example 1h, by reacting 900 mg (2.1 mmol) of dimethyl 4-{3-[4-(3,3-dimethyl-2-oxobutoxy)-3-methylphenyl]propyl}phthalate with 375 mg (10 mmol) of lithium aluminum hydride. A thick colorless oil is obtained (m=780 mg, y=96%).

reactant | dimethyl 4-{3-[4-(3,3-dimethyl-2-oxobutoxy)-3-methylphenyl]propyl}phthalate | 2.1 mmol, 900 mg | CC(C(COC1=C(C=C(C=C1)CCCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC)C)=O)(C)C | C26H32O6
reactant | lithium aluminum hydride | 10 mmol, 375 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-{4-[3-(3,4-Bis-hydroxymethyl-phenyl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-ol | OCC=1C=C(C=CC1CO)CCCC1=CC(=C(OCC(C(C)(C)C)O)C=C1)C | C24H34O4
